US05932601
A mixture of 5-[3-methoxy-4-(2-phenyl-4-thiazolylmethoxy)cinnamylidene]-2,4-oxazolidinedione (0.76 g), palladium-carbon (5%, 1.0 g) and tetrahydrofuran (THF) (100 ml) was subjected to catalytic hydrogenation under 1 atmospheric pressure at room temperature. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The concentrate was subjected to column chromatography on silica gel. From the fraction eluted with chloroform-ethyl acetate (4:1), 5-[3-[3-methoxy-4-(2-phenyl-4-thiazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione (0.25 g, 32%) was obtained. Recrystallization of the product from ethyl acetate-hexane gave colorless prisms, m.p.96-97° C.

reactant | 5-[3-methoxy-4-(2-phenyl-4-thiazolylmethoxy)cinnamylidene]-2,4-oxazolidinedione | 0.76 g | COC=1C=C(C=CC=C2C(NC(O2)=O)=O)C=CC1OCC=1N=C(SC1)C1=CC=CC=C1 | C23H18N2O5S
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-[3-[3-methoxy-4-(2-phenyl-4-thiazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione | 0.25 g, 32% | COC=1C=C(C=CC1OCC=1N=C(SC1)C1=CC=CC=C1)CCCC1C(NC(O1)=O)=O | C23H22N2O5S
